US05731322
(±)-trans-2-Diisopropylaminocarbonyl-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride
1.0 g (2.2 mmol) of (±)-trans-2-diisopropylaminocarbonyl-6-ethyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g] isoquinoline were treated with 1.15 ml (12.0 mmol) of boron tribromide as described in example 2. The crude product was dissolved in MeOH and the solution brought to acidic pH with HCl/Et2O . The solvent was evaporated in vacuo and the solid crystallized from acetone, yielding 0.5 g of the title compound. M.p.=263°-265° C.

reactant | (±)-trans-2-diisopropylaminocarbonyl-6-ethyl-8a-(3-methoxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g] isoquinoline | 2.2 mmol, 1.0 g | C(C)(C)N(C(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)OC)N1)C)C(C)C | C28H41N3O2
reactant | boron tribromide | 12.0 mmol, 1.15 ml | B(Br)(Br)Br | BBr3
reactant | HCl Et2O | Cl.CCOCC
solvent | MeOH | CO | CH4O
product | (±)-trans-2-Diisopropylaminocarbonyl-6-ethyl-8a-(3-hydroxyphenyl)-3-methyl-4,4a,5,6,7,8,8a,9-octahydro-1H-pyrrolo[2,3-g]isoquinoline hydrochloride | 0.5 g | Cl.C(C)(C)N(C(=O)C1=C(C2=C(C[C@@]3(CCN(C[C@H]3C2)CC)C2=CC(=CC=C2)O)N1)C)C(C)C | InChI=1S/C27H39N3O2.ClH/c1-7-29-12-11-27(20-9-8-10-22(31)13-20)15-24-23(14-21(27)16-29)19(6)25(28-24)26(32)30(17(2)3)18(4)5;/h8-10,13,17-18,21,28,31H,7,11-12,14-16H2,1-6H3;1H/t21-,27+;/m1./s1
